data/specific_train_final.csv
"CCCC(=O)O[O:20].[N:10]=O>>CCCC(=O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(O[O:20])Cl)Cl.[N+](=O)([O-])[O:10]>>CC(C(O[O:20][O:10][N+](=O)[O-])Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(CO[O:20])O[N+](=O)[O-].[N:10]=O>>CCCC(CO[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C(C)[O:20][O:21]N=O)O[N+](=O)[O-]>>CCCC(C(C)[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
[CH3:5][C:4]([CH3:6])([CH2:3][CH2:2][OH:1])[O:7].[N:9](=[O:10])[O:8]>>[CH3:5][C:4]([CH3:6])([CH2:3][CH2:2][OH:1])[O:7].[N+:9](=[O:10])[O-:8] 9-8,Room Temperature,Propagation,ha resonance
"C=CC(CO)[O:21][O:20][O].[N+](=O)[O-]>>C=CC(CO)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:10]1C2CC(C2(C)C)CC1O[N+](=O)[O-].[O:20][O]>>CC1(C2CC1[C:10](C(C2)O[N+](=O)[O-])(C)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCOC(C)(C)[CH2:10].[O:20][O]>>CCOC(C)(C)[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C=O)O)[O:20][O:21]N=O>>CC(C(C=O)O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][C:2](=[O:3])[O:4].[N+:7](=[O:8])[O-:9].[O:5][O:6]>>[CH3:1].[C:2](=[O:3])=[O:4].[N+:7](=[O:8])[O-:9].[O:5][O:6] 2,1-2,4; 4-2,4; 2,1-1",Room Temperature,Propagation,retroaddition
"[H:20][C:21](=O)C1C(O1)(C)C=CC(=O)CC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC(=O)C=CC1(C(O1)[C:21]=O)C 10-10,20; 21,20-10,20; 21,20-21",Room Temperature,Propagation,abstraction
"CCCC(=O)O[O:20].O[O:10]>>CCCC(=O)O[O:20][O:10]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)C[CH:10]CO[N+](=O)[O-].[O:20][O]>>CC(=O)C[CH:10](CO[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"COCO[O:20].[N+](=O)([O-])[O:10]>>COCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)([CH2:10])O[N+](=O)[O-].[O:20][O]>>CCC(C)([CH2:10][O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2](=[O:3])[O:4][O:5][O:6].[N+:7](=[O:8])[O-:9]>>[CH3:1][C:2](=[O:3])[O:4].[N+:7](=[O:8])[O-:9].[O:5][O:6] 4,5-4; 4,5-5",Room Temperature,Initiation,homolyze
"CC(=O)OC(C)(C)CO[O:20].[N+](=O)([O-])[O:10]>>CC(=O)OC(C)(C)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=CC=C(C=C1)[CH2:10].[O:20][O]>>CCC1=CC=C(C=C1)[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC/[CH:20]=[CH:21]\C.[N+](=O)([O-])[O:10]>>CCC[CH:20]([CH:21]C)[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:10][CH:9]([CH3:11])[C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:10][CH:9]([CH3:11])[C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"CCCC(C(C)O)O[O:20].[N+](=O)([O-])[O:10]>>CCCC(C(C)O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:8][C:7](=[O:9])[CH2:6][C:3]([CH3:5])([CH2:2][O:1])[OH:4].[N:11](=[O:12])[O:10]>>[CH3:8][C:7](=[O:9])[CH2:6][C:3]([CH3:5])([CH2:2][O:1])[OH:4].[N+:11](=[O:12])[O-:10] 11-10,Room Temperature,Propagation,ha resonance
CCC1(C=CC2C(C1(OO2)C)O)[O].[O:20][N:10]=O>>CCC1(C=CC2C(C1(OO2)C)O)[O].[O-:20][N+:10]=O 10-20,Room Temperature,Propagation,ha resonance
"CCC1=CC2(C(C(C1O[O:20])(OO2)C)O)CC.[N+](=O)([O-])[O:10]>>CCC1=CC2(C(C(C1O[O:20][O:10][N+](=O)[O-])(OO2)C)O)CC 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:9][C:8]([C:3]([H:7])([C:2](=[CH2:1])[CH3:12])[O:4][O:5][H:6])[O:10][H:11].[O:13][O:14]>>[H:9][C:8](=[O:10])[C:3]([H:7])([C:2](=[CH2:1])[CH3:12])[O:4][O:5][H:6].[H:11][O:13][O:14] 13-13,11; 11,10-10,8; 8-10,8; 10,11-13,11",Room Temperature,Termination,abstraction
"CC(OC(=O)C)[O:20][O:21]N=O>>CC([O:20])OC(=O)C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(CC[O:21][O:20][O])O.[N+](=O)[O-]>>CC(C)(CC[O:21])O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CC(=O)C)OO[O:20][N+:21](=O)[O-]>>CC(CC(=O)C)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(O[O:20])(Cl)Cl)Cl.[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])(Cl)Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)O[O:20].[N:10]=O>>CC(C)(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CC(=O)C)[O:21][O:20][O].[N+](=O)[O-]>>CC(CC(=O)C)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(CO[O:20])O.[N+](=O)([O-])[O:10]>>CCCC(CO[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
